US05908863
ethyl 3-(fur-2-yl)-2-cyclohexylmethyl-2-ethoxycarbonyl-propanoate, which by reaction with formaldehyde and dimethylamine hydrochloride yields ethyl 3-(5-dimethylaminomethyl-fur-2-yl)-2-cyclohexylmethyl-2-ethoxycarbonyl-propanoate.

reactant | ethyl 3-(fur-2-yl)-2-cyclohexylmethyl-2-ethoxycarbonyl-propanoate | O1C(=CC=C1)CC(C(=O)OCC)(C(=O)OCC)CC1CCCCC1 | C19H28O5
reactant | formaldehyde | C=O | CH2O
reactant | dimethylamine hydrochloride | Cl.CNC
product | ethyl 3-(5-dimethylaminomethyl-fur-2-yl)-2-cyclohexylmethyl-2-ethoxycarbonyl-propanoate | CN(C)CC1=CC=C(O1)CC(C(=O)OCC)(C(=O)OCC)CC1CCCCC1 | C22H35NO5
